US05348953
Into a solution of glycolic acid (35 gm, 46 mmol) in benzyl alcohol (200 mL) was bubbled anhydrous hydrogen chloride for 1 hr at 0° C. The reaction was then stirred for an additional 4 hrs at 0° C. before it was poured into a mixture of ice water and ether. The layers were separated and the aqueous layer was reextracted with ether. The ether layers were sequentially washed with sodium bicarbonate and brine, combined, dried over sodium sulfate and evaporated. Distillation of the residue at 103°-110° C. 0.5 mm afforded 59 gm (77%) of benzyl glycolate as a clear liquid.

reactant | glycolic acid | 46 mmol, 35 gm | C(CO)(=O)O | C2H4O3
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | benzyl alcohol | 200 mL | C(C1=CC=CC=C1)O | C7H8O
product | benzyl glycolate | 59 gm, 77% | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
